US06030984
8-(4-Benzyloxy-phenyl)-7-oxo-7H-thieno[2, 3-a]quinolizine-10-carboxylic acid (2-methoxy-ethyl)-pyrimidin-2-yl-amide
From 8-[p-(benzyloxy)phenyl]-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid with SOCl2 in toluene. Then treatment with triethylamine and (2-ethoxy-ethyl)-pyrimidin-2-yl-amine in dichloromethane.

reactant | 8-[p-(benzyloxy)phenyl]-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C(N2C=CC3=C(C2=C(C1)C(=O)O)SC=C3)=O | C25H17NO4S
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | (2-ethoxy-ethyl)-pyrimidin-2-yl-amine | C(C)OCCNC1=NC=CC=N1 | C8H13N3O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-(4-Benzyloxy-phenyl)-7-oxo-7H-thieno[2, 3-a]quinolizine-10-carboxylic acid (2-methoxy-ethyl)-pyrimidin-2-yl-amide | COCCN(C(=O)C=1C=C(C(N2C=CC3=C(C12)SC=C3)=O)C3=CC=C(C=C3)OCC3=CC=CC=C3)C3=NC=CC=N3 | C32H26N4O4S
